US04244966
A mixture of 3-hydroxy-2-methylbenzonitrile [23.38 g described by S. Gabriel and A. Thieme, Ber., 52, 1079 (1919)] anhydrous potassium carbonate (26.7 g) and methyl iodide (16.43 ml) in acetone (255 ml) is refluxed for 4 hr, cooled and filtered. The filtrate is evaporated and dissolved in dichloromethane. The solution is washed with water, dried and evaporated. The residue is chromatographed on silica gel using dichloromethane-hexane(1:1) and the eluates are evaporated and crystallized from hexane to obtain 2-methyl-3-methoxybenzonitrile: (II: R1 =2-Me and Y=CN): mp 47°-48° C.; ir 2,220, 1,265 and 1,100 cm-1 ; and nmr (CDCl3) δ2.42 (s, 3H), 3.85 (s, 3H) and 7.15 (m, 3H).

reactant | 3-hydroxy-2-methylbenzonitrile | OC=1C(=C(C#N)C=CC1)C | C8H7NO
reactant | potassium carbonate | 26.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 16.43 ml | CI | CH3I
solvent | acetone | 255 ml | CC(=O)C | C3H6O
product | 2-methyl-3-methoxybenzonitrile | CC1=C(C#N)C=CC=C1OC | C9H9NO
